US06927214B1
6,7-Dichloro-2-isopropyl-3-(4-methylthiazol-2-ylsulfinyl)quinoxaline
To a solution of 3-isopropyl-2,6,7-trichloroquinoxaline (100 mg, 0.364 mmol) in DMF (3 ml) was added 4-methylthiazole-2-thiol (45 mg, 0.38 mmol) followed by potassium carbonate (106 mg, 0.728 mmol). After stirring at room temperature for 5 hours, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate one more time. The combined organic layers were concentrated to dryness. This residue was dissolved in dichloromethane (3 ml). To this solution was added mCPBA (157 mg, 0.73 mmol, 79% pure). The reaction mixture was stirred overnight at room temperature. The reaction was quenched by addition of a saturated solution of sodium bicarbonate. After separating the layers, the aqueous layer was extracted twice with ethyl acetate. The organic layers were combined and concentrated under reduced pressure yielding a white solid. This solid was further purified by column chromatography affording two components as a white solid.

reactant | 3-isopropyl-2,6,7-trichloroquinoxaline | 0.364 mmol, 100 mg | C(C)(C)C=1C(=NC2=CC(=C(C=C2N1)Cl)Cl)Cl | C11H9Cl3N2
reactant | 4-methylthiazole-2-thiol | 0.38 mmol, 45 mg | CC=1N=C(SC1)S | C4H5NS2
reactant | potassium carbonate | 0.728 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | mCPBA | 0.73 mmol, 157 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6,7-Dichloro-2-isopropyl-3-(4-methylthiazol-2-ylsulfinyl)quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)S(=O)C=1SC=C(N1)C | C15H13Cl2N3OS2
